US08629270B2
Racemic Benzyl 2-benzamido-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate
To a 0° C. solution of racemic benzyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-(2-thienyl)pyrrolidine-1-carboxylate (30 g, 60.5 mmol) in methylene chloride (300 mL) is added a methylene chloride solution (20 mL) of 1-chloro-N,N,2-trimethylpropenylamine (9.61 mL, 72.6 mmol). The resulting solution is stirred at 0° C. for 30 minutes and then warmed to room temperature. The solution is quenched with saturated sodium bicarbonate solution, the organic layer is isolated, dried over sodium sulfate and concentrated. The crude mixture is purified over silica gel eluting with 5% to 50% ethyl acetate in hexanes gradient to give the title compound (24 g, 83%). ES/MS (m/e): 478 (M+H).

reactant | racemic benzyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-(2-thienyl)pyrrolidine-1-carboxylate | 60.5 mmol, 30 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1(CN(CC1CO)C(=O)OCC1=CC=CC=C1)C=1SC=CC1 | C25H25N3O4S2
reactant | 1-chloro-N,N,2-trimethylpropenylamine | 72.6 mmol, 9.61 mL | ClC(=C(C)C)N(C)C | C6H12ClN
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | Racemic Benzyl 2-benzamido-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 24 g, 83% | C(C1=CC=CC=C1)(=O)NC=1SCC2C(N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C=2SC=CC2 | C25H23N3O3S2
